US05047411
A solution of 2-[2-(4-aminophenyl)ethyl]pyridine (5.8 g) and methyl isothiocyanate (2.6 g) in ethanol (60 ml) was refluxed for one hour. The reaction mixture was evaporated in vacuo to give a crystalline residue, which was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 2-[2-{4-(3-methylthioureido)phenyl}ethyl]pyridine (7.3 g).

reactant | 2-[2-(4-aminophenyl)ethyl]pyridine | 5.8 g | NC1=CC=C(C=C1)CCC1=NC=CC=C1 | C13H14N2
reactant | methyl isothiocyanate | 2.6 g | CN=C=S | C2H3NS
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-[2-{4-(3-methylthioureido)phenyl}ethyl]pyridine | 7.3 g | CNC(NC1=CC=C(C=C1)CCC1=NC=CC=C1)=S | C15H17N3S
